US06310102B1
(E)-N-Methyl-4-(3-aminophenyl)-3-buten-1-amine
A solution of (E)-N-methyl-N-[4-(3-aminophenyl)-3-buten-1-yl]benzamide (1.52 g, 5.42 mmol) in 6 M HCl solution (55 mL) was stirred and heated under reflux at 105° C. (oil bath temperature) for 17.5 h. The resulting dark-brown solution was allowed to cool to ambient temperature and was further cooled to 0° C. A 20% NaOH solution (85 mL) was carefully added with stirring giving pH 13. The resulting mixture was extracted with CHCl3 (3×50 mL). The combined tan CHCl3 extracts were washed with saturated NaCl solution (50 mL), dried (Na2SO4), filtered, and concentrated by rotary evaporation. Further drying at 0.6 mm Hg for 3 h gave a thick, light-brown oil (1.18 g). TLC analysis (CH3OH-Et3N, 97.5:2.5, v/v) indicated the presence of (E)-N-methyl-N-(4-(3-aminophenyl)-3-buten-1-yl)benzamide (Rf 0.60) along with the desired product (Rf 0.19). Consequently, the crude oil was treated with concentrated HCl (75 mL) and stirred and heated under reflux for 16 h. The mixture was cooled to 0° C., basified with 20% NaOH solution (50 mL) to pH 12, and extracted with CHCl3 (4×50 mL). The combined CHCl3 extracts were washed with saturated NaCl solution (50 mL), dried (Na2SO4), filtered, and concentrated by rotary evaporation. Further drying under high vacuum produced a brown oil (888 mg). TLC analysis again indicated the presence of (E)-N-methyl-N-[4-(3-aminophenyl)-3-buten-1-yl]benzamide. Consequently, the crude material was treated with 20% sulfuric acid solution (50 mL) and stirred and heated under reflux at 135° C. (oil bath temperature) for 6 h. The resulting mixture was cooled to ambient temperature and was further cooled to 0° C. A 20% NaOH solution (40 mL) was carefully added, with stirring, giving pH 12. The resulting mixture was extracted with CHCl3 (5×40 mL). The combined CHCl3 extracts were washed with saturated NaCl solution (50 mL), dried (Na2SO4), filtered, and concentrated by rotary evaporation. Further drying under high vacuum produced a dark-brown syrup (734 mg). The crude product was purified by column chromatography on silica gel (50 g, 2.0 cm i.d. column) eluting with CH3OH—Et3N (97.5:2.5, v/v). Selected fractions containing the product were combined and concentrated by rotary evaporation. The residue was dissolved in CHCl3, dried (Na2SO4), filtered, concentrated by rotary evaporation, and further dried under high vacuum to give 241.3 mg (25.2%) of a light-brown oil. A portion (169.8 mg) of this material was further purified by column chromatography on silica gel (25 g, 2.0 cm i.d. column) eluting with CH3OH—Et3N (97:3, v/v). Selected fractions containing the product (Rf 0.24 in CH3OH—Et3N (97:3, v/v)) were combined and concentrated by rotary evaporation. The resulting yellow oil was dissolved in CHCl3, dried (Na2SO4), filtered, concentrated by rotary evaporation, and further dried at 0.5 mm Hg for 3 h to give 130.6 mg of a viscous, reddish brown oil.

reactant | (E)-N-methyl-N-(4-(3-aminophenyl)-3-buten-1-yl)benzamide | CN(C(C1=CC=CC=C1)=O)CC\C=C\C1=CC(=CC=C1)N | C18H20N2O
solvent | CH3OH Et3N | CO.CCN(CC)CC
product | (E)-N-Methyl-4-(3-aminophenyl)-3-buten-1-amine | CNCC\C=C\C1=CC(=CC=C1)N | C11H16N2
